US07592334B2
(c) 6-Hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine
A solution of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid (500 mg) in THF (24 mL) with triethylamine (0.396 mL) was cooled to −10° C. and isobutyl chloroformate (0.339 ml) was added. After 20 minutes the suspension was filtered through kieselguhr into an ice-cooled solution of sodium borohydride (272 mg) in water (8 mL), the mixture stirred 30 minutes and the pH reduced to 7 with dilute HCl. The solvent was evaporated and the residue triturated under water. The product was filtered and dried under vacuum to give a white solid (346 mg); LC/MS (APCI−) m/z 195 ([M−H]−, 50%), 165(100%).

reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | 500 mg | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
reactant | triethylamine | 0.396 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.339 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 6-Hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine | 346 mg | OCC=1C=CC=2SCC(NC2N1)=O | C8H8N2O2S
